US05968944
(R)-2-[1-(2,6-Dimethylphenyl)-3,5-diethyl-1H-pyrazol-4-ylmethyl]-3-ethoxymethyl-1,2,3,4-tetrahydro-isoquinoline
To a solution of n-butyl lithium (2.5 M hexane solution; 0.028 ml, 0.071 mmol) chilled to -78° C., a solution of (R)-2-[1-(4-bromo-2,6-dimethylphenyl)-3,5-diethyl-1H-pyrazol-4-ylmethyl]-3-ethoxymethyl-1,2,3,4-tetrahydro-isoquinoline (33 mg, 0.065 mmol) in anhydrous tetrahydrofuran (0.1 ml) was added dropwise. After stirring at -78° C. for 10 minutes, water (0.1 ml) was added. The resulting mixture was warmed to room temperature and stirred for 20 minutes. The reaction was quenched by addition of aqueous ammonium chloride (1 ml), and then extracted with ethyl acetate/water (5 ml of each). The separated organic extract was washed with an equal volume solution of aqueous ammonium chloride, dried over anhydrous sodium sulfate and concentrated in vacuo to afford a yellow oil (17 mg). Flash chromatography (silica gel, 40 micron mesh; elution with ethyl acetate/hexane=1:5 in volume) afforded the title compound (2 mg) as a yellow oil.

reactant | n-butyl lithium | 0.071 mmol, 2.5 M, 0.028 ml | C(CCC)[Li]
reactant | (R)-2-[1-(4-bromo-2,6-dimethylphenyl)-3,5-diethyl-1H-pyrazol-4-ylmethyl]-3-ethoxymethyl-1,2,3,4-tetrahydro-isoquinoline | 0.065 mmol, 33 mg | BrC1=CC(=C(C(=C1)C)N1N=C(C(=C1CC)CN1CC2=CC=CC=C2C[C@@H]1COCC)CC)C | C28H36BrN3O
reactant | water | 0.1 ml | O | H2O
solvent | tetrahydrofuran | 0.1 ml | O1CCCC1 | C4H8O
product | (R)-2-[1-(2,6-Dimethylphenyl)-3,5-diethyl-1H-pyrazol-4-ylmethyl]-3-ethoxymethyl-1,2,3,4-tetrahydro-isoquinoline | 17 mg | CC1=C(C(=CC=C1)C)N1N=C(C(=C1CC)CN1CC2=CC=CC=C2C[C@@H]1COCC)CC | C28H37N3O
